US04873236
(-)-4-[[[2-[2-[(Diethylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 1 from 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and (-)-2-[2-[(diethylamino)methyl]-piperidin-l-yl]ethanamine in a yield of 53% of theory. Colourless crystals, m.p. 132°-133° C. (acetonitrile); [α]D20 =-14.00° (dilute aqueous hydrochloric acid).

reactant | 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C13H9ClN2O2S
reactant | (-)-2-[2-[(diethylamino)methyl]-piperidin-l-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | (-)-4-[[[2-[2-[(Diethylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 53% | C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C25H35N5O2S
